US06908930B2
SYNTHESIS OF 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-4-(4-METHYL-PIPERAZINE-1-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE (FORMULA 29)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (70.7 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days. The precipitate was collected by vacuum filtration, washed with ethanol to give 63 mg (51%) of the title compound as a yellow solid. 1H NMR (360 MHz, DMSO-d6) δ 13.29 (br s, 1H, NH), 11.73 (br s, 1H, NH), 9.16 (br s, 1H), 8.31 (s, 1H), 7.72 (dd, J=2.7 & 6.5 Hz, 1H), 7.46 (d, J=2.7 Hz, 1H), 7.43 (m, 1H), 7.40 (s, 1H), 7.34 (t, J=9.05 Hz, 1H), 3.49 (m, 4H, 2×CH2), 2.29 (m, 4H, 2×CH2), 2.19 (s, 3H, CH3), 2.18 (s, 3H, CH3). MS 496 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 70.7 mg | CC1=C(NC=C1C(=O)N1CCN(CC1)C)C=O | C12H17N3O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-CHLORO-4-FLUORO-PHENYLAMINO)-5-[3-METHYL-4-(4-METHYL-PIPERAZINE-1-CARBONYL)-1H-PYRROL-2-YLMETHYLENE]-5,7-DIHYDRO-PYRROLO[2,3-D]PYRIMIDIN-6-ONE | 63 mg, 51% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC=C(C2C)C(=O)N2CCN(CC2)C)=O | C24H23ClFN7O2
